US06638929B2
8-(4-Phenoxyanilino)imidazo[4,5-g]quinoline-7-carbonitrile
A suspension of 211.8 mg (0.52 mmol) of 7-cyano-3H-imidazo[4,5-g]quinolin-8-yl(4-phenoxyphenyl)formamide and 288.9 mg (2.09 mmol) of potassium carbonate in 15 mL of methanol is refluxed for 2.5 hours. The solution is concentrated and the residue is diluted with water followed by neutralization to pH 7-8 with acetic acid. The precipitate is collected by filtration and washed with water and dried in vacuo, giving a deep yellow solid. The solid is purified by flash chromatography (elution with a gradient of 98:2 to 90:10 methylene chloride/methanol) yields 137.4 mg (70.0%) of the final product as a yellow solid, mp>270° C.

reactant | 7-cyano-3H-imidazo[4,5-g]quinolin-8-yl(4-phenoxyphenyl)formamide | 0.52 mmol, 211.8 mg | C(#N)C=1C=NC=2C=C3C(=CC2C1N(C=O)C1=CC=C(C=C1)OC1=CC=CC=C1)N=CN3 | C24H15N5O2
reactant | potassium carbonate | 2.09 mmol, 288.9 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 mL | CO | CH4O
product | 8-(4-Phenoxyanilino)imidazo[4,5-g]quinoline-7-carbonitrile | 137.4 mg, 70.0% | O(C1=CC=CC=C1)C1=CC=C(NC2=C(C=NC=3CC=4C(=CC23)N=CN4)C#N)C=C1 | C23H15N5O
